US06110934
N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-5-chloro-4-iso-propyl-2-methoxybenzamide, hydrochloride
The title compound was prepared in an analogous manner to Example 1 from 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline and 5-chloro-4-iso-propyl-2-methoxybenzoic acid.

reactant | 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 5-chloro-4-iso-propyl-2-methoxybenzoic acid | ClC=1C(=CC(=C(C(=O)O)C1)OC)C(C)C | C11H13ClO3
product | N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-5-chloro-4-iso-propyl-2-methoxybenzamide, hydrochloride | Cl.CN1CC2=CC=CC(=C2CC1)NC(C1=C(C=C(C(=C1)Cl)C(C)C)OC)=O | InChI=1S/C21H25ClN2O2.ClH/c1-13(2)16-11-20(26-4)17(10-18(16)22)21(25)23-19-7-5-6-14-12-24(3)9-8-15(14)19;/h5-7,10-11,13H,8-9,12H2,1-4H3,(H,23,25);1H
